US08729102B2
A) methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylate
To a solution of methyl 3-hydroxyisoxazole-5-carboxylate (20 g), tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (25 g) and triphenylphosphine (55.1 g) in THF (800 mL) was added dropwise a toluene solution (1.9 M, 110 mL) of diisopropyl azodicarboxylate, and the mixture was refluxed for 5 hr. The reaction mixture was allowed to cool to room temperature, and ethyl acetate was added thereto. The mixture was washed with water and saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (25 g).

reactant | methyl 3-hydroxyisoxazole-5-carboxylate | 20 g | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate | 25 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 55.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.9 M, 110 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylate | 25 g | C(C)(C)(C)OC(=O)N[C@H](COC1=NOC(=C1)C(=O)OC)C | C13H20N2O6
